US07223766B2
A suspension of 2-(5-chloro-2-fluorophenyl)-5,7-dihydrofuro[3,4-d]pyrimidin-4-ol (100 mg, 0.36 mmol, 1 eq) in POCl3 (5 ml) was stirred under reflux for 1 h. The solution was then cooled to room temperature and concentrated under reduced pressure to give a white solid which was dissolved in dry methylene chloride. The solution was cooled to 0° C. and ice was added followed by sat. NaHCO3. The organic layer was separated, washed with brine, dried (MgSO4), filtered and evaporated in vacuo to provide a crude white solid which was purified by flash column chromatography (1:9 EtOAc:Hexane) to give 4-Chloro-2-(5-chloro-2-fluorophenyl)-5,7-dihydrofuro[3,4-d]pyrimidine (78 mg, 73%) as a white solid.

reactant | 2-(5-chloro-2-fluorophenyl)-5,7-dihydrofuro[3,4-d]pyrimidin-4-ol | 0.36 mmol, 100 mg, 1 eq | ClC=1C=CC(=C(C1)C=1N=C(C2=C(N1)COC2)O)F | C12H8ClFN2O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | POCl3 | 5 ml | O=P(Cl)(Cl)Cl | Cl3OP
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-Chloro-2-(5-chloro-2-fluorophenyl)-5,7-dihydrofuro[3,4-d]pyrimidine | 78 mg, 73% | ClC=1C2=C(N=C(N1)C1=C(C=CC(=C1)Cl)F)COC2 | C12H7Cl2FN2O
